* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1725.asc
* Generated by LTspice 24.1.9 for Windows.
M§Q1 N007 N011 N013 N013 Si4410DY
R1 N013 0 .1
C1 N015 0 100p
C2 N004 0 1n
L1 N007 IN 20µ Rpar=5K
R2 N010 0 100K
R3 N012 0 100K
R4 N014 0 100K
R5 N005 0 100K
C3 N008 0 .1µ
R6 N001 N003 10K
R7 N003 0 3K
L2 N002 0 5µ Rpar=5K
L3 N001 0 5µ Rpar=5K
D1 N002 OUT 1N5817
C4 OUT 0 50µ Rser=25m
Rload OUT 0 10
V1 IN 0 16
X§U1 0 N013 N006 N005 N008 N015 N004 N003 N009 IN 0 N010 N012 N014 IN N011 LT1725
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
K1 L1 L2 L3 1
.tran 1.2m startup
.lib LT1725.sub
.backanno
.end
